### PR TITLE
[Merged by Bors] - chore: deprecate duplicate declaration for the scalar product as a sesquilinear form

### PR DESCRIPTION
**Pull request by sgouezel**
Zulip discussion at [#mathlib4 > Duplication @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Duplication/near/565217359)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 1]
```diff
@@ -120,30 +120,50 @@ theorem real_inner_smul_right (x y : F) (r : ℝ) : ⟪x, r • y⟫_ℝ = r * 
...
+
+/-- The inner product as a sesquilinear map.
 
 Note that in the case `𝕜 = ℝ` this is a bilinear form. -/
-@[simps!]
-def sesqFormOfInner : E →ₗ[𝕜] E →ₗ⋆[𝕜] 𝕜 :=
-  LinearMap.mk₂'ₛₗ (RingHom.id 𝕜) (starRingEnd _) (fun x y => ⟪y, x⟫)
-    (fun _x _y _z => inner_add_right _ _ _) (fun _r _x _y => inner_smul_right _ _ _)
-    (fun _x _y _z => inner_add_left _ _ _) fun _r _x _y => inner_smul_left _ _ _
+def innerₛₗ : E →ₗ⋆[𝕜] E →ₗ[𝕜] 𝕜 :=
```
Comment (vihdzp) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:129]: Getting rid of the duplication is fine, but the other name comes off as more readable to me. I thought using non-ASCII characters in declarations was generally discouraged.

Comment (sgouezel) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean:129]: `innerₛₗ` is the standard spelling throughout mathlib (used 10 times more than the other one). This PR is only about removing the duplication, not changing the name. This could be done later in another PR if needed, but I think a prerequisite would be to converge on a naming scheme for our whole zoo of bundled linear maps, bilinear maps, continuous linear maps and so on.

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 2]
```diff
@@ -247,10 +247,10 @@ instance : CStarRing (E →L[𝕜] E) where
   norm_mul_self_le x := le_of_eq <| Eq.symm <| norm_adjoint_comp_self x
 
 theorem isAdjointPair_inner (A : E →L[𝕜] F) :
-    LinearMap.IsAdjointPair (sesqFormOfInner : E →ₗ[𝕜] E →ₗ⋆[𝕜] 𝕜)
-      (sesqFormOfInner : F →ₗ[𝕜] F →ₗ⋆[𝕜] 𝕜) A (A†) := by
+    LinearMap.IsAdjointPair (LinearMap.flip (innerₛₗ 𝕜 (E := E)))
+      (LinearMap.flip (innerₛₗ 𝕜 (E := F))) A (A†) := by
```
Comment (mcdoll) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]:
```suggestion
      (innerₛₗ 𝕜 (E := F)).flip A (A†) := by
```
untestet

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 3]
```diff
@@ -577,10 +577,10 @@ theorem isSymmetric_iff_isSelfAdjoint (A : E →ₗ[𝕜] E) : IsSymmetric A ↔
   exact eq_comm
 
 theorem isAdjointPair_inner (A : E →ₗ[𝕜] F) :
-    IsAdjointPair (sesqFormOfInner : E →ₗ[𝕜] E →ₗ⋆[𝕜] 𝕜) (sesqFormOfInner : F →ₗ[𝕜] F →ₗ⋆[𝕜] 𝕜) A
-      A.adjoint := by
+    IsAdjointPair (LinearMap.flip (innerₛₗ 𝕜 (E := E)))
+      (LinearMap.flip (innerₛₗ 𝕜 (E := F))) A A.adjoint := by
```
Comment (mcdoll) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]:
```suggestion
    IsAdjointPair (innerₛₗ 𝕜 (E := E)).flip
      (innerₛₗ 𝕜 (E := F)).flip A A.adjoint := by
```
I wonder whether this should be replaced by `IsAdjointPair inner inner A A.adjoint`, but maybe for a second PR.

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 4]
```diff
@@ -120,30 +120,50 @@ theorem real_inner_smul_right (x y : F) (r : ℝ) : ⟪x, r • y⟫_ℝ = r * 
...
-@[simps!]
-def bilinFormOfRealInner : BilinForm ℝ F := sesqFormOfInner.flip
+@[deprecated (since := "2025-12-26")] alias sesqFormOfInner := innerₛₗ
+@[deprecated (since := "2025-12-26")] alias bilinFormOfRealInner := innerₗ
 
 /-- An inner product with a sum on the left. -/
 theorem sum_inner {ι : Type*} (s : Finset ι) (f : ι → E) (x : E) :
     ⟪∑ i ∈ s, f i, x⟫ = ∑ i ∈ s, ⟪f i, x⟫ :=
-  map_sum (sesqFormOfInner (𝕜 := 𝕜) (E := E) x) _ _
+  map_sum (LinearMap.flip (innerₛₗ 𝕜) x) _ _
```
Comment (mcdoll) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]:
```suggestion
  map_sum ((innerₛₗ 𝕜).flip x) _ _
```

**Review by mcdoll — APPROVED** [review]

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+
